US06313113B1
4-[[2-Methyl-4-oxo-3,4-dihydro-(2H)-1,3-benzoxazine-2-yl]methoxy]nitrobenzene
To a stirred mixture of salicylamide (6.85 g, 50 mmol) and 4-[2-oxo-propoxy]nitrobenzene (9.75 g, 50 mmol) in benzene (500 mL) was added piperidine (0.52 mL, 5 mmol). The reaction mixture was immersed in a pre-heated oil bath (˜100° C.) and refluxed for 10 h with continuous removal of water using Dean-Stark water separator. The reaction mixture was cooled to room temperature End the precipitated brown coloured solid was filtered, washed with benzene and dried to afford the title compound (13.5 g, 86%).

reactant | salicylamide | 50 mmol, 6.85 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | 4-[2-oxo-propoxy]nitrobenzene | 50 mmol, 9.75 g | O=C(COC1=CC=C(C=C1)[N+](=O)[O-])C | C9H9NO4
reactant | piperidine | 5 mmol, 0.52 mL | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | benzene | 500 mL | C1=CC=CC=C1 | C6H6
product | 4-[[2-Methyl-4-oxo-3,4-dihydro-(2H)-1,3-benzoxazine-2-yl]methoxy]nitrobenzene | 13.5 g, 86% | CC1(OC2=C(C(N1)=O)C=CC=C2)COC2=CC=C(C=C2)[N+](=O)[O-] | C16H14N2O5
